US04677115
Step B: Preparation of 3-(3-Furylthio)propionic Acid
A mixture of ethyl 3-(3-furylthio)propionate (0.52 g, 0.0026 mole) and potassium hydroxide (0.29 g, 0.0052 m) in ethanol (25 ml) and water (1.0 ml) was stirred at ambient temperature for 4 hours. The mixture was concentrated in vacuo below 40° C., water (20 ml) was added to the residue and the solution extracted with methylene chloride (20 ml). The aqueous layer was acidified with 3NHCl, extracted with methylene chloride (3×25 ml) and the combined extracts washed twice with water. After drying over sodium sulfate, the solvent was evaporated in vacuo to give 0.15 g (33%) of oily product.

reactant | ethyl 3-(3-furylthio)propionate | 0.0026 mole, 0.52 g | O1C=C(C=C1)SCCC(=O)OCC | C9H12O3S
reactant | potassium hydroxide | 0.29 g | [OH-].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 1.0 ml | O | H2O
product | 3-(3-Furylthio)propionic Acid | 0.15 g, 33% | O1C=C(C=C1)SCCC(=O)O | C7H8O3S
